US06175027B1
A solution of bromobutane (0.98 mol) in 28 grams of THF is heated to 60-65° C. A warm solution of CpMgCl in THF (1.0 mol) as produced in Example 1 is added to the bromobutane solution while maintaining a pot temperature between 60-65° C. After the addition and the consequent reaction are complete by GC analysis, the reaction mixture is cooled to ambient temperature, 25% by weight of aqueous acetic acid is added, and the organic layer is separated, washed with 10% by weight of aqueous sodium carbonate, and dried over anhydrous sodium sulfate. The organic layer is filtered, and fractionally distilled under reduced pressure to recover 70 to 80% yield of n-butyl cyclopentadiene.

reactant | bromobutane | 0.98 mol | BrCCCC | C4H9Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | THF | 28 grams | C1CCOC1 | C4H8O
reactant | THF | 1.0 mol | C1CCOC1 | C4H8O
product | n-butyl cyclopentadiene | 70 to 80% yield | C(CCC)C1=CC=CC1 | C9H14
